US07390904B2
2,4,6-Tris[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine
The title compound is prepared from the reaction of 2,4,6-tris[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine and cyclohexane following a procedure similar to that of Example 10.

reactant | 2,4,6-tris[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)O)(C)C)NCCCCC1CC(N(C(C1)(C)C)O)(C)C)(C)C | C42H81N9O3
reactant | cyclohexane | C1CCCCC1 | C6H12
product | 2,4,6-Tris[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | C1(CCCCC1)ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(C)C | C60H111N9O3
